US09193723B2
5-[1-(propan-2-ylsulfonyl)piperidin-4-yl]-N-([1,2,4]triazolo[1,5-a]pyridin-6-ylmethyl)thiophene-2-carboxamide
The title compound was prepared as described in Example 682, substituting propane-2-sulfonyl chloride for benzenesulfonyl chloride and N-([1,2,4]triazolo[1,5-a]pyridin-6-ylmethyl)-5-(piperidin-4-yl)thiophene-2-carboxamide for N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-4-yl)benzamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.03 (t, J=5.8 Hz, 1H), 8.86 (d, J=1.5 Hz, 1H), 8.48 (s, 1H), 7.83 (dd, J=9.1, 0.9 Hz, 1H), 7.64 (m, 2H), 6.97 (dd, J=3.7, 0.9 Hz, 1H), 4.53 (d, J=5.8 Hz, 2H), 3.71 (m, 2H), 3.25 (m, 1H), 3.02 (m, 3H), 2.00 (m, 2H), 1.56 (m, 2H), 1.22 (d, J=6.8 Hz, 6H); MS (ESI(+)) m/e 448 (M+H)+.

reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N-([1,2,4]triazolo[1,5-a]pyridin-6-ylmethyl)-5-(piperidin-4-yl)thiophene-2-carboxamide | N=1C=NN2C1C=CC(=C2)CNC(=O)C=2SC(=CC2)C2CCNCC2 | C17H19N5OS
reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-4-yl)benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CCNCC2)=O | C20H22N4O
product | 5-[1-(propan-2-ylsulfonyl)piperidin-4-yl]-N-([1,2,4]triazolo[1,5-a]pyridin-6-ylmethyl)thiophene-2-carboxamide | CC(C)S(=O)(=O)N1CCC(CC1)C1=CC=C(S1)C(=O)NCC=1C=CC=2N(C1)N=CN2 | C20H25N5O3S2
